US04788206
In the manner described in Example 99, 5,5-bis(2-methoxyphenyl) -2,4-pentadienoic acid methyl ester (6.3 g) was saponified in a refluxing mixture of methanol (50 mL) and 1N NaOH (50 mL). After 45 minutes the crude acid was isolated in the normal manner and the crystallized from 2-propanol to yield 5.1 g of (E)-5,5-bis(2-methoxyphenyl)-2,4-pentadienoic acid, mp 96°-197° C.

reactant | 5,5-bis(2-methoxyphenyl) -2,4-pentadienoic acid methyl ester | 6.3 g | COC(C=CC=C(C1=C(C=CC=C1)OC)C1=C(C=CC=C1)OC)=O | C20H20O4
reactant | NaOH | 1N, 50 mL | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | (E)-5,5-bis(2-methoxyphenyl)-2,4-pentadienoic acid | 5.1 g | COC1=C(C=CC=C1)C(=C/C=C/C(=O)O)C1=C(C=CC=C1)OC | C19H18O4
